US06323223B1
3,4-Dichlorobenzyl bromide (1.83 g, 7.63 mmol) was added to a solution of ethyl isonipecotate (1 g, 6.36 mmol) and triethylamine (1.33 ml, 9.54 mmol) in methylene chloride solution (10 ml) at room temperature. After 17 h, the reaction mixture was diluted with ethyl acetate and washed with aqueous sodium bicarbonate solution (10 ml). The organic layer was dried over magnesium sulfate, filtered, and concentrated. Flash chromatography with 9:1, hexanes/ethyl acetate followed by 6:1 hexanes/ethyl acetate gave ethyl 1-(3,4-dichlorobenzyl)isonipecotate (1.78 g) as a pale yellow oil.

reactant | 3,4-Dichlorobenzyl bromide | 7.63 mmol, 1.83 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
reactant | ethyl isonipecotate | 6.36 mmol, 1 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 9.54 mmol, 1.33 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-(3,4-dichlorobenzyl)isonipecotate | 1.78 g | ClC=1C=C(CN2CCC(C(=O)OCC)CC2)C=CC1Cl | C15H19Cl2NO2
